US07989438B2
Step 5: (7R or 7S)-14-cyclohexyl-7-{[2-(methylamino)ethoxy]methyl}-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
A solution of (7R or 7S)-14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-{[2-(methylamino)ethoxy]methyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide (0.05 M) in DCM was treated with an excess of TFA and H2O (>50 eq of each). The mixture was stirred at 40° C. for 40 min. The solution was allowed to cool to RT and used in the next step. (ES+) m/z 597 (M+H)+.

reactant | 14-cyclohexyl-N-{[(2,2-dimethoxyethyl)(methyl)amino]sulfonyl}-7-{[2-(methylamino)ethoxy]methyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | 0.05 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)COCCNC)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C33H46N4O7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H2O | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-7-{[2-(methylamino)ethoxy]methyl}-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)COCCNC)C(=O)NS(=O)(=O)N(CC=O)C | C31H40N4O6S
